US06509472B2
(R)-2-amino-2-cyclohexyl-1,1-diphenylethanol (59 mg, 0.2 mmol), dry tetrahydrofuran (2 mL) and trimethylborate (27.2 μL, 0.24 mmol) were added to a dry flask and stirred under an atmosphere of nitrogen for 1.5 hours to form a solution of (R)-4-cyclohexyl-5,5-diphenyl-2-methoxy-1,3,2-oxazaborolidine. To this solution was added borane dimethylsulfide complex (100 μL, 1.0 mmol) and the mixture was stirred at room temperature for a further 30 minutes. A solution of 1-tetralone (133 μL, 1.0 mmol) in tetrahydrofuran (5 mL) was added by means of a syringe pump at a rate of 16 mL/min and the reaction was then stirred for a further 1 hour. Thin layer chromatography (silica gel/hexane/ethyl acetate 4:1) showed no starting material. The reaction was quenched by addition of methanol. The solvent was evaporated under vacuum and the residue was dissolved in ethyl acetate and washed 3 times with IN HCl. The ethyl acetate solution was dried over magnesium sulfate, filtered through a plug of silica gel and concentrated to give (S)-1-hydroxy-1,2,3,4-tetrahydronaphthalene with an ee of 96.5%. The enantiomer ratio was determined by HPLC using a Chiralcel OB 25 cm×4.6 mm column with hexane/2-propanol (9:1) mobile phase at 0.5 mL/min at 25° C. Detection with UV was at 254 nm.

reactant | 1-tetralone | 1.0 mmol, 133 μL | C1(CCCC2=CC=CC=C12)=O | C10H10O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-1-hydroxy-1,2,3,4-tetrahydronaphthalene | O[C@H]1CCCC2=CC=CC=C12 | C10H12O
